US05284847
6-Carboxy-7-methylthieno(2,3-b]pyrazine-2,3(1H,4H)-dione
6-Ethoxycarbonyl-7-methylthieno[2,3-b]pyrazine-2,3-(1H,4H)-dione (60 mg, 0.236 mmol) was warmed in 1 M NaOH (0.944 ml) at 50° C. under stirring for 8 hours. The mixture was filtrated and acidified with 2 M HCl (1.0 ml) under cooling in an ice bath. The precipitate was filtered off, washed with water and dried to afford 29 mg (54%) of the title compound. M.p. 289°-294° C. 1H-NMR (DMSO-D6, δ): 2.45 (s, 3H), 11.96 (s, 1H), 12.45 (s, 1H), 12.96 (s, 1H).

reactant | 6-Ethoxycarbonyl-7-methylthieno[2,3-b]pyrazine-2,3-(1H,4H)-dione | 0.236 mmol, 60 mg | C(C)OC(=O)C1=C(C2=C(NC(C(N2)=O)=O)S1)C | C10H10N2O4S
solvent | NaOH | 1 M, 0.944 ml | [OH-].[Na+]
product | 6-Carboxy-7-methylthieno(2,3-b]pyrazine-2,3(1H,4H)-dione | 29 mg, 54% | C(=O)(O)C1=C(C2=C(NC(C(N2)=O)=O)S1)C | C8H6N2O4S
